US04159380
7.71 g. of 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)-ethanol (0.03 mol.) and 6.9 g. of 4-chloro-5-chloromethyl-1-ethyl-1H-pyrazolo[3,4-b]pyridine (0.03 mol.) are reacted according to the procedure of Example 1b. The combined tetrahydrofuran layers are treated with charcoal and filtered. Addition of 250 ml. of ether to the tetrahydrofuran solution separates an oily impurity which is removed by decanting the solution. After the solution containing the free base is cleared up by the addition of Hyflo filter aid there is added an excess of ethereal hydrochloric acid. The precipitated hydrochloride is allowed to stand for 2 hours, then filtered off, washed with ether and dried in a vacuum desiccator, yield: 8.3 g. (61%). The product is recrystallized from 3 N-hydrochloric acid with charcoal. The so obtained 4-chloro-5-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-1-ethyl-1H-pyrazolo[3,4-b]-pyridine, hydrochloride (1:1) contains half a mole of water; m.p. 166°-167°.

reactant | 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)-ethanol | 0.03 mol | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)O | C11H10Cl2N2O
reactant | 4-chloro-5-chloromethyl-1-ethyl-1H-pyrazolo[3,4-b]pyridine | 0.03 mol | ClC1=C2C(=NC=C1CCl)N(N=C2)CC | C9H9Cl2N3
reactant | charcoal | C | CH4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-chloro-5-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-1-ethyl-1H-pyrazolo[3,4-b]-pyridine, hydrochloride | Cl.ClC1=C2C(=NC=C1COC(CN1C=NC=C1)C1=C(C=C(C=C1)Cl)Cl)N(N=C2)CC | InChI=1S/C20H18Cl3N5O.ClH/c1-2-28-20-16(9-26-28)19(23)13(8-25-20)11-29-18(10-27-6-5-24-12-27)15-4-3-14(21)7-17(15)22;/h3-9,12,18H,2,10-11H2,1H3;1H
